
// simulation setup for SL_inv_1x
simulator lang=spectre
VDD (vdd 0) vsource dc=1.2
GND (vss 0) vsource dc=0
V0 (in 0) vsource dc=0
test1 tran stop=100p

// current source mimic ion collision on MN0
STRIKE (out vss) isource type=pulse val0=0 val1=300u period=50n rise=5p fall=5p width=1p
