// SkySim heavy ion transient injection model
// based on Kauppila et. al. 2009
ISRC (skynet0 skynet1) isource pulse
CS (skynet1 skynet0) capacitor c=0.1u
GREC (skynet1 skynet0) isource
GSEE (skynet1 skynet0 skynet1 skynet0) gm=1 m=2