
// simulation setup for SL_inv_1x
simulator lang=spectre
VDD (vdd 0) vsource dc=1.2
GND (vss 0) vsource dc=0
V0 (in 0) vsource dc=1.2

// current source mimic ion collision on MN0
STRIKE (out vss) isource type=pulse val0=0 val1=1m period=50n width=5p rise=1p fall=5p

// transient sim for 100ps
sim tran stop=100p